US05084490
4-Ethyl acetoxy benzaldehyde was prepared by the reaction of one mole of ethyl bromoacetate with one mole of 4-hydroxy benzaldehyde in the presence of one mole of anhydrous Potassium Carbonate in refluxing acetone. This precursor material was vacuum distilled after filtration and concentration of the reaction mixture. The precursor boiled in the range 138°-140° C. at 0.2 mbar and appeared as a slightly yellowish liquid which crystallized on standing.

reactant | ethyl bromoacetate | one mole | BrCC(=O)OCC | C4H7BrO2
reactant | 4-hydroxy benzaldehyde | one mole | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Potassium Carbonate | one mole | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-Ethyl acetoxy benzaldehyde | C(C)C1=CC(=C(C=O)C=C1)OC(C)=O | C11H12O3
